US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-formyl-4-(methyloxy)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide
A mixture of N-[(3-bromo-4-cyanophenyl)methyl]-N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide (0.779 g, 0.00120 mol) in dioxane (9 mL) with (3-formylphenyl)boronic acid (234.7 mg, 0.001565 mol) was treated with a solution of Na2CO3 (382.8 mg, 0.00361 mol) in H2O (3 mL). The mixture was purged with N2 for 10 min, then Tetrakistriphenylphosphine palladium (0) (69 mg, 0.00060 mol) was added. The mixture was microwaved at 150° C. for 30 min. The reaction was quenched with H2O, then the mixture was extracted with EtOAc (2×). The combined organic extracts were washed with H2O, then sat. aq. NaCl, dried (Na2SO4) and concentrated giving a residue which was purified on a Chomatotrom™ Plate (2000μ) silica gel [DCM-MeOH, 0-6%] to afford the title compound (438 mg). However, there was loss of Br during the reaction and the des-bromo compound did not separate under the chromatographic conditions and the product 70% pure, with effectively 306 mg (38%) desired product obtained. LC-MS m/z 675.5 (M+H)+.

reactant | N-[(3-bromo-4-cyanophenyl)methyl]-N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | 0.00120 mol, 0.779 g | BrC=1C=C(C=CC1C#N)CN(C(=O)C1=CC(=CC=C1)C(=O)N)CC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C32H34BrN7O3
reactant | (3-formylphenyl)boronic acid | 0.001565 mol, 234.7 mg | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | Na2CO3 | 0.00361 mol, 382.8 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 9 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 3 mL | O | H2O
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-formyl-4-(methyloxy)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide | 438 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C=CC2OC)C2=CC(=CC=C2)C=O)CC | C39H42N6O5
